* GF180MCU nominal characterization: 3.3 V, 27 C, typical models.
.include "support/models.spice"
.include "dut.spice"
.include "parameters.spice"
.temp 27
VDD vdd 0 3.3
VCLK clk 0 PULSE(0 3.3 10n .1n .1n 10n 20n)
VRN rn 0 PWL(0 0 5n 0 5.1n 3.3 85n 3.3 85.1n 0 95n 0 95.1n 3.3)
VS s 0 PWL(0 0 40n 0 40.1n 3.3 80n 3.3 80.1n 0)
VA a 0 PWL(0 0 20n 0 20.1n 3.3 60n 3.3 60.1n 0 100n 0 100.1n 3.3 120n 3.3 120.1n 0)
VB b 0 PWL(0 0 60n 0 60.1n 3.3)
CLOAD q 0 50f
XDUT s vdd q b clk a rn 0 gf180mcu_voidwalkers_sc_sdffrnq_4
.control
tran .01n 140n
meas tran low19 find v(q) at=19n
meas tran high39 find v(q) at=39n
meas tran low59 find v(q) at=59n
meas tran high79 find v(q) at=79n
meas tran reset89 find v(q) at=89n
meas tran reset99 find v(q) at=99n
meas tran high119 find v(q) at=119n
meas tran low139 find v(q) at=139n
meas tran delay_s trig v(clk) val=1.65 rise=1 td=100n targ v(q) val=2.97 rise=1 td=100n
let pwr=-3.3*i(vdd)
meas tran power_w avg pwr from=20n to=140n
write waveform.raw
quit
.endc
.end
